US07872014B2
To a solution of (3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2,5-difluorophenyl)acetonitrile (1.22 g, 4.30 mmol) in DMF (10 mL) was added 2-bromoethyl methyl ether (485 μl, 5.16 mmol) and potassium fluoride (0.5 g, 8.6 mmol). The mixture was stirred at room temperature for 15 hrs. The reaction mixture was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in-vacuo to afford an orange oil, which was purified by column chromatography. Eluting with 30% ethyl acetate in hexanes gave 690 mg, 3.04 mmol (71%) of (2,5-difluoro-3-{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile as a colorless oil. 1H NMR (CDCl3): 6.75-6.69 (m, 2H), 4.17-4.15 (m, 2H), 3.78-3.74 (m, 4H), 3.44 (s, 3H); MS (EI) for C11H11NO2F2: 228 (MH+).

reactant | (3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2,5-difluorophenyl)acetonitrile | 4.30 mmol, 1.22 g | CC(C)(C)[Si](OC=1C(=C(C=C(C1)F)CC#N)F)(C)C | C14H19F2NOSi
reactant | 2-bromoethyl methyl ether | 5.16 mmol, 485 μl | COCCBr | C3H7BrO
reactant | potassium fluoride | 8.6 mmol, 0.5 g | [F-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2,5-difluoro-3-{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile | 3.04 mmol, 690 mg, 71% | FC1=C(C=C(C=C1OCCOC)F)CC#N | C11H11F2NO2
